US05767131
2-(3-Aminopropyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline.
To a stirred solution of 2-(2-cyanoethyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline (5.70 g, 23.1 mmol, 1.0 equiv) in anhydrous THF (20 mL) under argon was added a solution of BH3 in THF (1.0M, 81 mL, 81 mmol, 3.5 equiv) at room temperature. The mixture was stirred at reflux for 4.5 hours and then cooled to room temperature. Aqueous HCl (6N, 130 mL) was added cautiously at room temperature and stirring was continued for 2.5 hours at 55°-60° C. The mixture was cooled to 0° C., basified to pH 10-11 by addition of 6N aq. NaOH, and extracted with CH2 Cl2 (3×100 mL). The combined organic solutions were dried over MgSO4 and concentrated. To a solution of the residue in CH2 Cl2 (20 mL) was added HCl in ether (1.0M, 40 mL, 1.7 equiv). The resulting solution was added dropwise into ether (250 mL) with swirling. The precipitate was filtered and washed with ether (3×100 mL). This solid was taken up in water (50 mL), which was basified to pH 10 by addition of 1M aqueous NaOH, and extracted with CH2Cl2 (3×100 mL). The combined organic solutions were dried over MgSO4 and concentrated to give 5.10 g (88%) of white solid, which was characterized spectroscopically.

reactant | 2-(2-cyanoethyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 23.1 mmol, 5.70 g, 1.0 equiv | C(#N)CCN1CC2=CC(=C(C=C2CC1)OC)OC | C14H18N2O2
reactant | HCl | 6N, 130 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
reactant | ether | 1.0M, 40 mL, 1.7 equiv | CCOCC | C4H10O
reactant | ether | 250 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Cl2 | 20 mL | ClCl | Cl2
solvent | THF | 81 mmol, 1.0M, 81 mL, 3.5 equiv | C1CCOC1 | C4H8O
product | 2-(3-Aminopropyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 5.10 g, 88% | NCCCN1CC2=CC(=C(C=C2CC1)OC)OC | C14H22N2O2
